US06022906
24b 1-[4-(3-Iodo-propoxy)-phenyl]-2-methyl-2-morpholin-4-yl-propan-1-one
16.2 g (53 mmol) of 1-[4-(3-hydroxy-propoxy)-phenyl]-2-methyl-2-morpholin-4-yl-propan-1-one, 8.97 g (132 mmol) of imidazole and 34.5 g (132 mmol) of triphenyl phosphine are dissolved in 150 ml of methylene chloride. To the solution are added 27.0 g (106 mmol) of iodine and stirred at room temperature for 1 hour. 100 ml of methylene chlorideare added to the reaction mixture and washed with sodium sulfite aqueous solution and water, and dried over MgSO4. After methylene chloride is distilled off, the residue is purified by means of column chromatography on silica gel with ethyl acetate-hexane (1:3) as an eluent, and an oily product is obtained. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm] 1.31 (s, 6H), 2.30 (m, 2H), 2.57 (m, 4H), 3.38 (t, 2H), 3.69 (m, 4H), 4.11 (t, 2H), 6.91 (d, 2H), 8.60 (d, 2H).

reactant | 1-[4-(3-hydroxy-propoxy)-phenyl]-2-methyl-2-morpholin-4-yl-propan-1-one | 53 mmol, 16.2 g | OCCCOC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C17H25NO4
reactant | imidazole | 132 mmol, 8.97 g | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphine | 132 mmol, 34.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 106 mmol, 27.0 g | II | I2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(3-Iodo-propoxy)-phenyl]-2-methyl-2-morpholin-4-yl-propan-1-one | ICCCOC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C17H24INO3
